US04025652
A mixture of 25.7 g. (0.106 moles) of 1-(2,6-dimethylphenylamidino)-3-(t-butyl)urea and 200 ml. of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, the solid filtered and washed with 10 ml. of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanol-ether to obtain (2,6-dimethylphenylamidino)urea hydrochloride.

reactant | 1-(2,6-dimethylphenylamidino)-3-(t-butyl)urea | 0.106 moles | CC1=C(C(=CC=C1)C)NC(=N)NC(=O)NC(C)(C)C | C14H22N4O
reactant | hydrochloric acid | Cl | ClH
product | (2,6-dimethylphenylamidino)urea hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=N)NC(=O)N | InChI=1S/C10H14N4O.ClH/c1-6-4-3-5-7(2)8(6)13-9(11)14-10(12)15;/h3-5H,1-2H3,(H5,11,12,13,14,15);1H
